US06552069B1
1-Iodo-3,3,4,4,5,5,6,6,6-nonafluorohexane (10.0 g, 26.2 mmol) and sodium cyanide (3.85 g, 78.6 mmol) were stirred in dimethyl sulfoxide (50 ml) for 30 minutes at 60° C. Water was added to the reaction mixture, which was then extracted with ether. The resulting organic layer was washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. The solvent was distilled off to give 4,4,5,5,6,6,7,7,7-nonafluoroheptanecarbonitrile (4.7 g, Yield 66%) as a brown oil.

reactant | 1-Iodo-3,3,4,4,5,5,6,6,6-nonafluorohexane | 26.2 mmol, 10.0 g | ICCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C6H4F9I
reactant | sodium cyanide | 78.6 mmol, 3.85 g | [C-]#N.[Na+]
reactant | Water | O | H2O
reactant | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 4,4,5,5,6,6,7,7,7-nonafluoroheptanecarbonitrile | 4.7 g, Yield 66% | FC(CCCC#N)(C(C(C(F)(F)F)(F)F)(F)F)F | C8H6F9N
